US06310204B1
Preparation of hexahydro-1,3-bis(4-nitrobenzenesulfonyl)-5-pyrimidinol
A solution of hexahydro-5-pyrimidinol (1.0 g, 9.8 mmol) and sodium carbonate (1.04 g, 9.8 mmol) in 10 mL of water in a 250 mL round bottom flask was stirred with a magnetic stir bar for 10 minutes. A solution of 4-nitrobenzenesulfonyl chloride (4.4 g, 19.8 mmol) in 10 mL of toluene was added dropwise over a period of 30 minutes. The reaction mixture formed a white suspended solid. A mixture of 100 mL of water and 20 mL of toluene was added to the reaction mixture and stirred overnight. The reaction mixture was filtered and the solid was washed with 100 mL of toluene, then with 100 mL of water. The solid was dried at room temperature under reduced pressure to give 4.4 g (95%) of crude product, hexahydro-1,3-bis(4-nitrobenzenesulfonyl)-5-pyrimidinol. [1H NMR (DMSO-d6): δ 2.29 (s, 1 H), 2.84, 3.47 {AB q of d, J=12.4(3.8) Hz, 12.4(7.9) Hz, 4 H}, 3.30 (m, 1 H), 4.46, 5.07 (AB q, J=12.5 Hz, 2 H), 5.31 (s, 1 H), 8.11, 8.41 (AB q, J=8.7 Hz, 8 H); 13C NMR (DMSO-d6): δ 50.0, 59.8, 60.6, 124.6, 128.9, 143.3, 150.1].

reactant | hexahydro-5-pyrimidinol | 9.8 mmol, 1.0 g | N1CNCC(C1)O | C4H10N2O
reactant | sodium carbonate | 9.8 mmol, 1.04 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-nitrobenzenesulfonyl chloride | 19.8 mmol, 4.4 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | water | 10 mL | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 mL | O | H2O
product | hexahydro-1,3-bis(4-nitrobenzenesulfonyl)-5-pyrimidinol | 4.4 g, 95% | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N1CN(CC(C1)O)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C16H16N4O9S2
